US06117884
7-Chloro-α-(trifluoromethyl)-4-quinolinemethanol (0.25 g, 0.96 mmol) was dissolved in 5 ml of tetrahydrofuran in a oven dried, nitrogen swept 25 ml round bottomed flask and the resulting solution was cooled to 0° C. under nitrogen. With stirring, NaH (0.042 g, 1.1 mmol, 60% dispersion in mineral oil) was added all at once. After 15 minutes, 5-fluoro-2-(methylsulfonyl) pyrimidine (0.17 g, 0.96 mmol) was added dropwise via syringe as a solution in tetrahydrofuran (2.5 ml) over 5 minutes. An additional 2 ml of tetrahydrofuran was used to rinse the flask containing the sulfone and the syringe. The milky solution was allowed to warm to room temperature and stir for 15 hours by which time thin layer chromatography (hexanes:ethyl acetate/1:1) indicated complete consumption of the starting materials. The reaction mixture was partitioned between water and ethyl acetate, the layers separated and the aqueous layer extracted with an additional portion of ethyl acetate. The combined organic layers were dried (MgSO4) filtered and concentrated to dryness. Purification by flash silica gel chromatography (hexanes:ethyl acetate/2:1) provided 7-chloro-4-[2,2,2-trifluoro-1-[(5-fluoro-2-pyrimidinyl) oxy]ethyl]quinoline (0.32 g, 94%) as a white solid. An analytical sample was prepared by recrystallization from hexane. (mp 92° C.).

reactant | 7-Chloro-α-(trifluoromethyl)-4-quinolinemethanol | 0.96 mmol, 0.25 g | ClC1=CC=C2C(=CC=NC2=C1)C(O)C(F)(F)F | C11H7ClF3NO
reactant | NaH | 1.1 mmol, 0.042 g | [H-].[Na+]
reactant | 5-fluoro-2-(methylsulfonyl) pyrimidine | 0.96 mmol, 0.17 g | FC=1C=NC(=NC1)S(=O)(=O)C | C5H5FN2O2S
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 7-chloro-4-[2,2,2-trifluoro-1-[(5-fluoro-2-pyrimidinyl) oxy]ethyl]quinoline | 0.32 g, 94% | ClC1=CC=C2C(=CC=NC2=C1)C(C(F)(F)F)OC1=NC=C(C=N1)F | C15H8ClF4N3O
